US04810800
1,3-Dihydro-1-(2-thienyl)-2H-imidazole-2-thione
A mixture of 2-isothiocyanatothiophene (16.9 g, 0.12 mol), and aminoacetaldehyde dimethyl acetal (12.6 g, 0.12 mol) in 200 ml toluene is refluxed for 2 hours. After removal of the toluene, the residue is dissolved in 200 ml ethanol and 45 ml conc. HCl added. After the reaction is refluxed for 5 hours, it is poured onto ice. The product is collected and purified by recrystallization.

reactant | 2-isothiocyanatothiophene | 0.12 mol, 16.9 g | N(=C=S)C=1SC=CC1 | C5H3NS2
reactant | aminoacetaldehyde dimethyl acetal | 0.12 mol, 12.6 g | COC(CN)OC | C4H11NO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dihydro-1-(2-thienyl)-2H-imidazole-2-thione | S1C(=CC=C1)N1C(NC=C1)=S | C7H6N2S2
